US08309718B2
3-cyclopentyl-3-(4-(2-(4-(4-(methylsulfonyl)piperazin-1-yl)phenylamino)pyrimidin-4-yl)-1H-pyrazol-1-yl)propanenitrile
A mixture of 3-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-3-cyclopentylpropanenitrile (30 mg, 0.1 mmol), 4-(piperazin-1-yl)aniline (28.5 mg, 0.149 mmol), and p-toluenesulfonic acid (14 mg, 0.084 mmol) in dry 1,4-dioxane (0.8 mL) was refluxed overnight, then cooled to room temperature. To the resulting mixture was added 1.0 M sodium carbonate in water (0.8 mL), followed by methanesulfonyl chloride (0.015 mL, 0.20 mmol). The reaction was stirred at room temperature for 30 min and the phases were separated. The organic phase was purified on RP-HPLC at pH 10 to give the desired product as a racemic mixture (33 mg, 63%). LCMS (M+H) 521.1.

reactant | 3-(4-(2-chloropyrimidin-4-yl)-1H-pyrazol-1-yl)-3-cyclopentylpropanenitrile | 0.1 mmol, 30 mg | ClC1=NC=CC(=N1)C=1C=NN(C1)C(CC#N)C1CCCC1 | C15H16ClN5
reactant | 4-(piperazin-1-yl)aniline | 0.149 mmol, 28.5 mg | N1(CCNCC1)C1=CC=C(N)C=C1 | C10H15N3
reactant | p-toluenesulfonic acid | 0.084 mmol, 14 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium carbonate | 1.0 M | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanesulfonyl chloride | 0.20 mmol, 0.015 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | 1,4-dioxane | 0.8 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.8 mL | O | H2O
product | 3-cyclopentyl-3-(4-(2-(4-(4-(methylsulfonyl)piperazin-1-yl)phenylamino)pyrimidin-4-yl)-1H-pyrazol-1-yl)propanenitrile | C1(CCCC1)C(CC#N)N1N=CC(=C1)C1=NC(=NC=C1)NC1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C | C26H32N8O2S
